US06166157
Preparation of 2-Iodotetrafluoropropionamide (CF3CFICONH2)
Into a glass flask was placed a mixture of aqueous ammonium hydroxide (28 wt. %, 40.5 mL, 0.6 mol) and methylene chloride (80 mL) which was cooled to 10-15° C. 2-Iodohexafluoropropyl fluorosulfate from Experiment 5 (37.6 g, 0.1 mol) was added slowly with vigorous stirring while the reaction temperature was kept at <15° C. After addition, the mixture was warmed to ambient temperature, the bottom organic layer was separated, washed with aqueous sodium bisulfite solution, dried over MgSO4. The solvent was removed in vacuo to give the title product as a white solid (18.5 g, 68.3 % yield), mp. 75-77° C., 1H NMR (300 MHz, CDCl3): δ6.98, 6.53 (2 broad singlets); 19F NMR (188.24 MHz, CDCl3): -76.3 (2 singlets, 3F), -138.5 (m, 1F); IR: 1690 cm-1 (C=O); Anal. Calcd. for C3H2F4INO: C: 13.30, H: 0.74, F: 28.05, N: 5.17. Found: C: 13.68, H: 0.83, F: 28.43, N: 5.21. Mass. Calcd. for [M+ ]: 270.9117; Found: 270.9093.

reactant | ammonium hydroxide | 0.6 mol, 40.5 mL | [OH-].[NH4+]
reactant | 2-Iodohexafluoropropyl fluorosulfate | S(=O)(=O)(OC(C(C(F)(F)F)(I)F)(F)F)F | C3F7IO3S
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-Iodotetrafluoropropionamide | 18.5 g, 68.3 % yield | IC(C(=O)N)(C(F)(F)F)F | C3H2F4INO
